US05179077
Zinc powder (65.37 g, 1 mol) and 3.27 g (50 mmol) of iodine are placed in 400 ml of toluene. This violet suspension is heated to 80° C. in an oil bath while stirring and treated within 80 minutes with a solution of 118.55 g (500 mmol) of ethyl 2-bromoheptanoate and 87.08 g (750 mmol) of acetoxyacetone in 100 ml of toluene. The exothermic reaction which sets in immediately can be held at 80°-90° C. by removing the oil bath. After a further 90 minutes at 80° C. the reaction mixture, cooled to room temperature, is treated with 400 ml of ice-water and then with 120 ml of 20% HCl and stirred for 30 minutes. Then, it is extracted three times with 500 ml of ether in a separating funnel. The ether phases are washed with 500 ml of sat. NaHCO3 solution and with 500 ml of sat. NaCl solution, dried over MgSO4 and concentrated on a rotary evaporator. The crude product distills at 110°-112° C./0.06 mbar and gives 49.64 g (43.5%) of 4-acetoxy-4-methyl-3-pentyl-tetrahydrofuran-2-one.

reactant | iodine | 50 mmol, 3.27 g | II | I2
reactant | ethyl 2-bromoheptanoate | 500 mmol, 118.55 g | BrC(C(=O)OCC)CCCCC | C9H17BrO2
reactant | acetoxyacetone | 750 mmol, 87.08 g | C(C)(=O)OCC(C)=O | C5H8O3
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Zinc | 1 mol, 65.37 g | [Zn] | Zn
product | 4-acetoxy-4-methyl-3-pentyl-tetrahydrofuran-2-one | 49.64 g, 43.5% | C(C)(=O)OC1(C(C(OC1)=O)CCCCC)C | C12H20O4
